US06225311B1
According to the procedure of Example 20, 0.500 g (3.58 mmol) of D-alanine methyl ester hydrochloride and 0.877 g (3.58 mmol) of 4but-2-ynyloxybenzenesulfonyl chloride provided 0.532 g of the NH-sulfonamide ester, (2R)-2-(4-but-2-ynyloxy-benzenesulfonylamino)-propionic acid methyl ester, as a white solid. Electrospray Mass Spec 312.1 (M+H)+

reactant | D-alanine methyl ester hydrochloride | 3.58 mmol, 0.500 g | Cl.COC([C@H](N)C)=O
reactant | 4but-2-ynyloxybenzenesulfonyl chloride | 3.58 mmol, 0.877 g | C(C#CC)OC1=CC=C(C=C1)S(=O)(=O)Cl | C10H9ClO3S
product | (2R)-2-(4-but-2-ynyloxy-benzenesulfonylamino)-propionic acid methyl ester | COC([C@@H](C)NS(=O)(=O)C1=CC=C(C=C1)OCC#CC)=O | C14H17NO5S
